US07528136B2
To a solution of 1-benzyl-4-[tert-butoxycarbonyl-(2,4-difluoro-benzyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester (109 g, 4.13 mmol) in CH3OH (10 ml) was added LiOH (0.826 g, 20.65 mmol), and the solution was stirred overnight at rt. After removal of solvent, the residue was dissolved in water, acidified until PH=5, and then extracted by EA. The organic phase was washed with water (2×50 mL) and brine (40 mL), dried over anhydrous Na2SO4, and concentrated to afford the product 1-benzyl-4-[tert-butoxycarbonyl-(2,4-difluoro-benzyl)-amino]-pyrrolidine-2-carboxylic acid 1.72 g (93%) as white solid. MS m/e=447.4 [M+H]+.

reactant | 1-benzyl-4-[tert-butoxycarbonyl-(2,4-difluoro-benzyl)-amino]-pyrrolidine-2-carboxylic acid methyl ester | 4.13 mmol, 109 g | COC(=O)C1N(CC(C1)N(CC1=C(C=C(C=C1)F)F)C(=O)OC(C)(C)C)CC1=CC=CC=C1 | C25H30F2N2O4
reactant | LiOH | 20.65 mmol, 0.826 g | [Li+].[OH-]
solvent | CH3OH | 10 ml | CO | CH4O
product | 1-benzyl-4-[tert-butoxycarbonyl-(2,4-difluoro-benzyl)-amino]-pyrrolidine-2-carboxylic acid | 1.72 g, 93% | C(C1=CC=CC=C1)N1C(CC(C1)N(CC1=C(C=C(C=C1)F)F)C(=O)OC(C)(C)C)C(=O)O | C24H28F2N2O4
